US08349880B2
Step H (1): 3-Methyl-5-(tributylstannyl)isoxazole (2.4 g, 6.4 mmol, H. Yamanaka et. al Tetrahedron, 1991, 47, 5111) and dichlorobis(triphenylphosphine)palladium (II) (45 mg, 0.0643 mmol) were added to a degassed solution of 1-bromo-2-methoxy-4-nitrobenzene (1.26 g, 5.5 mmol) in dioxane (25 mL). The resulting mixture was heated to reflux (105° C. oil bath temperature) for 24 h. The reaction mixture was cooled to rt and concentrated in vacuo. The residue was dissolved in dichloromethane and washed with water. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified using silica gel column chromatography to afford 5-(2-methoxy-4-nitrophenyl)-3-methylisoxazole (600 mg, 40% yield).

reactant | 3-Methyl-5-(tributylstannyl)isoxazole | 6.4 mmol, 2.4 g | CC1=NOC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-bromo-2-methoxy-4-nitrobenzene | 5.5 mmol, 1.26 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.0643 mmol, 45 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(2-methoxy-4-nitrophenyl)-3-methylisoxazole | 600 mg, 40% yield | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC(=NO1)C | C11H10N2O4
